US05099019
A mixture of 2-chloro-6-methoxypyridine (20 g) and piperazine (32.9 g) with potassium carbonate (20.1 g) in water (50 ml) is stirred at 100° for 24 hr. The mixture is partitioned between methylene chloride and aqueous sodium bicarbonate, the phases are separated and the organic phase is dried over sodium sulfate and concentrated. The concentrate is dissolved in ether. The organic phase is extracted with hydrochloric acid (10%). The aqueous phase is washed with ether, neutralized with sodium hydroxide (10%) and extracted with methylene chloride. The organic phase is dried over sodium sulfate and concentrated to give 2-piperazino-6-methoxypyridine. This material is stirred in acetonitrile (100 ml) with 21-bromo-17α-hydroxypregna-4,9(11)-diene-3,20-dione (3.01 g) and potassium carbonate (1.3 g) at 20°-25° for 16 hr. The mixture is partitioned between methylene chloride and aqueous sodium bicarbonate. The phases are separated and the organic phase is dried over sodium sulfate and concentrated. The concentrate is chromatographed over silica gel (2% methanol in methylene chloride to 4%) to give the free base of the title compound which is 92% pure by HPLC. This material is dissolved in ethyl acetate and treated with methane sulfonic acid (0.606 g). The salt is filtered and recrystallized from methanol and ethyl acetate to give the title compound.

reactant | 2-chloro-6-methoxypyridine | 20 g | ClC1=NC(=CC=C1)OC | C6H6ClNO
reactant | piperazine | 32.9 g | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 20.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
product | 2-piperazino-6-methoxypyridine | N1(CCNCC1)C1=NC(=CC=C1)OC | C10H15N3O
